US04330539
A solution of diborane in tetrahydrofurane (257 ml; 1 M) was added dropwise to a stirred solution of 3β,16α-bis(acetyloxy)-5α-androstan-17-one oxime acetate (11.7 g) in tetrahydrofuran (257 ml) at 0° C. under a nitrogen atmosphere. The solution was set aside at room temperature overnight, then water (35 ml) was carefully added to the cooled (0° C.), stirred solution. Tetrahydrofuran was distilled off and replaced with ethanol (400 ml) and sodium hydroxide solution (12 ml; 4 N), and the solution was heated under reflux for 3 h. The solution was concentrated and cooled; water (100 ml) and concentrated hydrochloric acid (12 ml) were added and the solution was heated on a water bath for 1 h. Aqueous sodium hydroxide (2 N) was then added to the cooled solution to precipitate the product, which was filtered off, washed with water and dried in vacuo to give 17β-amino-5α-androstane-3β,16α-diol (6.7 g), m.p. 234°-237° C. (decomp.), [α]D -3.8° (c 1.1 in MeOH).

reactant | diborane | B#B | B2
reactant | 3β,16α-bis(acetyloxy)-5α-androstan-17-one oxime acetate | 11.7 g | C(C)(=O)O.C(C)(=O)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=NO)OC(C)=O
reactant | water | 35 ml | O | H2O
solvent | tetrahydrofurane | 1 M, 257 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 257 ml | O1CCCC1 | C4H8O
product | 17β-amino-5α-androstane-3β,16α-diol | 6.7 g | N[C@@H]1[C@]2(C)[C@@H](C[C@H]1O)[C@@H]1CC[C@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)O | C19H33NO2
